US05239083
4-{2-[3-(1-benzylindol-5-yl)-2-methyl isocrotonoylamino]phenoxy}butyric acid (Compound 29)
0.84 g of compound 29 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.13 g of ethyl 4-(2-aminophenoxy)butyrate and 0.78 g of 3-(1-benzylindol-5-yl)-2-methylisocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 1.13 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-benzylindol-5-yl)-2-methylisocrotonic acid | 0.78 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C(/C(=O)O)\C)/C | C20H19NO2
product | 4-{2-[3-(1-benzylindol-5-yl)-2-methyl isocrotonoylamino]phenoxy}butyric acid | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C(/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)\C)/C | C30H30N2O4
